US07582640B2
Synthesis of (1,1-dimethylethyl) 3-[[6-[4-(methoxycarbonyl)-1-piperidinyl]-5-methyl-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alaninate
A mixture of 80 mg (0.19 mmoles) of (1,1-dimethylethyl) 3-[(6-chloro-5-methyl-4-pyrimidinyl)amino]-N-[(phenylmethoxy) carbonyl]alaninate and 3 ml of methyl 4-piperidinylcarboxylate is heated under reflux for 3 hours. After cooling down the reaction medium is taken up in water, ethyl acetate and a saturated solution of sodium bicarbonate. The organic phase is separated and the aqueous phase reextracted with ethyl acetate. The combined organic phases are dried over magnesium sulphate then the solvent eliminated under vacuum. The residue is chromatographed on silicagel eluting with a gradient of heptane (100%) to heptane-ethyl acetate (50-50). 25 mg (Yield=25%) of the expected product is obtained in the form of oil.

reactant | (1,1-dimethylethyl) 3-[(6-chloro-5-methyl-4-pyrimidinyl)amino]-N-[(phenylmethoxy) carbonyl]alaninate | 0.19 mmoles, 80 mg | ClC1=C(C(=NC=N1)NC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)C | C20H25ClN4O4
reactant | methyl 4-piperidinylcarboxylate | 3 ml | N1CCC(CC1)C(=O)OC | C7H13NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | (1,1-dimethylethyl) 3-[[6-[4-(methoxycarbonyl)-1-piperidinyl]-5-methyl-4-pyrimidinyl]amino]-N-[(phenylmethoxy)carbonyl]alaninate | 25 mg, Yield=25% | COC(=O)C1CCN(CC1)C1=C(C(=NC=N1)NC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)C | C27H37N5O6
